US07612114B2
6-Methoxybenzo[b]thiophene
The title compound was synthesized by referring to J. Med. Chem., 1989, 32, 2548. To a solution of 3-methoxybenzenethiol (26.9 g) in acetone (100 ml) was added potassium carbonate (27 g), then 2-bromo-1,1-diethoxyethane (29 ml) was added dropwise thereto followed by stirring overnight at room temperature. To the reaction solution was added acetone, the solution was filtered, the solvent was evaporated in vacuo, the resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate system) to provide 1-(2,2-diethoxyethylsulfanyl)-3-methoxybenzene (39.1 g). To dichloromethane (2 1) was added boron trifluoride diethyl ether complex (12.7 ml) under a nitrogen atmosphere, then a solution of 1-(2,2-diethoxyethylsulfanyl)-3-methoxybenzene (25.6 g) in dichloromethane (200 ml) was added dropwise over 1.5 hours, the solution was stirred for 40 minutes at room temperature, then a saturated aqueous solution of sodium carbonate (1 1) was added thereto followed by stirring for 1 hour at room temperature. The solution was extracted with dichloromethane, then dried over anhydrous magnesium sulfate, the solvent was evaporated in vacuo, and the resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (10.8 g).

reactant | 1-(2,2-diethoxyethylsulfanyl)-3-methoxybenzene | 25.6 g | C(C)OC(CSC1=CC(=CC=C1)OC)OCC | C13H20O3S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 6-Methoxybenzo[b]thiophene | 10.8 g | COC=1C=CC2=C(SC=C2)C1 | C9H8OS
